US07713994B2
4-Bromo-2-fluoro-5-methoxymethoxy-benzaldehyde
4-Bromo-2-fluoro-5-hydroxy-benzaldehyde (750 mg, 3.41 mmol) and MOMCl (545 mg, 6.82 mmol) were dissolved in anhydrous N,N-dimethylformamide (5 mL) and cooled to 0° C. NaH (160 mg, 60% suspension in mineral oil, 4 mmol) is then added. The resulting mixture is allowed to stir at room temperature for 1 h. Ether is then added and washed with H2O (3×20 mL) and brine. After dried over Na2SO4, the ether is removed and the residue is purified through chromatography to afford the desired MOM ether (700 mg, 78%).

reactant | 4-Bromo-2-fluoro-5-hydroxy-benzaldehyde | 3.41 mmol, 750 mg | BrC1=CC(=C(C=O)C=C1O)F | C7H4BrFO2
reactant | MOMCl | 6.82 mmol, 545 mg | C(OC)Cl | C2H5ClO
reactant | NaH | 4 mmol, 160 mg | [H-].[Na+]
reactant | Ether | CCOCC | C4H10O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 4-Bromo-2-fluoro-5-methoxymethoxy-benzaldehyde | BrC1=CC(=C(C=O)C=C1OCOC)F | C9H8BrFO3
